US08008293B2
Synthesis of (S)-1-[(2R,5S)-5-(4-chlorophenyl)pyrrolidine-2-yl]ethanol
4 N hydrochloric acid/ethyl acetate (7.5 mL) was added to an ethyl acetate (7.5 mL) solution of (2S,5R)-2-(4-fluorophenyl)-5-((S)-1-hydroxyethyl)-pyrrolidine-1-carboxylic acid t-butyl ester (850 mg, high polarity compound). Stirring was continued for 3 hours at room temperature. The solvent was removed under a vacuum, and sodium bicarbonate aqueous solution was added, and the resultant was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under a vacuum, and the title compound (580 mg) was obtained. The physical property values are as follows.

reactant | hydrochloric acid ethyl acetate | 4 N, 7.5 mL | Cl.C(C)(=O)OCC
reactant | (2S,5R)-2-(4-fluorophenyl)-5-((S)-1-hydroxyethyl)-pyrrolidine-1-carboxylic acid t-butyl ester | 850 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1[C@H](C)O)C1=CC=C(C=C1)F | C17H24FNO3
solvent | ethyl acetate | 7.5 mL | C(C)(=O)OCC | C4H8O2
product | (S)-1-[(2R,5S)-5-(4-chlorophenyl)pyrrolidine-2-yl]ethanol | 580 mg | ClC1=CC=C(C=C1)[C@@H]1CC[C@@H](N1)[C@H](C)O | C12H16ClNO
